US08877774B2
Step 6. 1-(4-((3-(Azido(phenyl)methyl)phenoxy)methyl)phenyl)cyclopropanecarboxylic acid
To a stirred solution of methyl 1-(4-((3-(azido(phenyl)methyl)phenoxy)methyl)-phenyl)cyclopropanecarboxylate (0.569 g, 1.375 mmol) in methanol (12.9 mL) and tetrahydrofuran (5.1 mL), was added 2M aqueous sodium hydroxide (12.9 mL). The reaction was stirred at 50° C. for 3 hours 30 minutes and then at room temperature for 16 hours. The reaction mixture was concentrated under reduced pressure, and the pH was adjusted to pH4 using 2M aqueous hydrochloric acid with stirring. The mixture was extracted with dichloromethane (×3), and the combined organic extracts washed with brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure to afford the title compound (0.552 g, quantitative yield). The material was used directly in the next step with no further purification

reactant | methyl 1-(4-((3-(azido(phenyl)methyl)phenoxy)methyl)-phenyl)cyclopropanecarboxylate | 1.375 mmol, 0.569 g | N(=[N+]=[N-])C(C=1C=C(OCC2=CC=C(C=C2)C2(CC2)C(=O)OC)C=CC1)C1=CC=CC=C1 | C25H23N3O3
reactant | sodium hydroxide | 2M, 12.9 mL | [OH-].[Na+]
solvent | methanol | 12.9 mL | CO | CH4O
solvent | tetrahydrofuran | 5.1 mL | O1CCCC1 | C4H8O
product | 1-(4-((3-(Azido(phenyl)methyl)phenoxy)methyl)phenyl)cyclopropanecarboxylic acid | 0.552 g, quantitative yield | N(=[N+]=[N-])C(C=1C=C(OCC2=CC=C(C=C2)C2(CC2)C(=O)O)C=CC1)C1=CC=CC=C1 | C24H21N3O3
